US08349548B2
1.a 1-(4-Carbazol-9-yl-phenyl)-ethanone
To carbazole (5.02 g) in dimethylsulfoxide (DMSO; 50 mL) is added 4-fluoroacetophenone (3.45 g) and K2CO3 (10.4 g), and the mixture is stirred at 135° C. overnight. The mixture is poured into water to afford a precipitate, which is isolated by filtration and washed with water. The crude product thus obtained is further purified by recrystallization from tert-butyl methyl ether (TBME), giving the product as a light brown solid. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 2.71 (s, 3H), 7.32 (ddd, 2H), 7.41-7.50 (m, 4H), 7.72 (d, 2H), 8.15 (d, 2H), 8.21 (d, 2H).

reactant | carbazole | 5.02 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 4-fluoroacetophenone | 3.45 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | K2CO3 | 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 1-(4-Carbazol-9-yl-phenyl)-ethanone | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C(C)=O | C20H15NO
